US08476253B2
Benzyl methyl 4,4′-[iminobis(methylene)]dibenzoate
Benzyl 4-formylbenzoate (618 mg, 2.57 mmol) and methyl 4-(aminomethyl)benzoate hydrochloride (622 mg, 3.09 mmol) were dissolved in 20 mL of toluene and 2.0 mL of methanol, and the solvent was evaporated under reduced pressure. The resulting white solid was dissolved in 15 mL of 2-propanol, sodium triacetoxyborohydride (1.64 g, 7.72 mmol) was added, and the mixture was stirred at room temperature for 5 hours. The reaction mixture was diluted with ethyl acetate and washed with a saturated aqueous sodium hydrogencarbonate solution and saturated sodium chloride solution. The organic layer was dried with anhydrous magnesium sulfate, then the solvent was evaporated under reduced pressure, and the resulting yellow oily substance was purified by silica gel chromatography (n-hexane:ethyl acetate, 90:10→80:20, v/v) to give the title compound (0.54 g; yield, 54%) as a white solid.

reactant | Benzyl 4-formylbenzoate | 2.57 mmol, 618 mg | C(=O)C1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C15H12O3
reactant | methyl 4-(aminomethyl)benzoate hydrochloride | 3.09 mmol, 622 mg | Cl.NCC1=CC=C(C(=O)OC)C=C1
reactant | sodium triacetoxyborohydride | 7.72 mmol, 1.64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl methyl 4,4′-[iminobis(methylene)]dibenzoate | 0.54 g, 54% | N(CC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)CC1=CC=C(C(=O)OC)C=C1 | C24H23NO4
